US03933804
EXAMPLE 49: 4'-(4-Benzylthio-3-methyl-2-butenyloxy)-acetophenone (according to process b)
14.15 g (0.05 mol) of 4'-(4-bromo-3-methyl-2-butenyloxy)-acetophenone are added at 10°-15° during the course of 1 hour to 7.3 g (0.05 mol) of sodium salt of benzylmercaptan which is dissolved in 120 cc of dimethylformamide. The mixture is stirred at 20°-25° for 20 hours, is subsequently filtered and the filtrate is evaporated at reduced pressure. The residue is dissolved in ether, is extracted with saturated salt solution and the ether solution is evaporated. The remaining yellowish oil is chromatographed on silica gel with hexane/ethyl acetate 2 : 1. After recrystallization from ether/hexane the 4'-(4-benzylthio-3-methyl-2-butenyloxy)-acetophenone is obtained as colourless crystals. M.P. 75°-76.5°.

reactant | 4'-(4-bromo-3-methyl-2-butenyloxy)-acetophenone | 0.05 mol, 14.15 g | BrCC(=CCOC1=CC=C(C=C1)C(C)=O)C | C13H15BrO2
reactant | sodium | 0.05 mol | [Na] | Na
reactant | benzylmercaptan | C(C1=CC=CC=C1)S | C7H8S
solvent | dimethylformamide | 120 cc | CN(C=O)C | C3H7NO
product | 4'-(4-Benzylthio-3-methyl-2-butenyloxy)-acetophenone | C(C1=CC=CC=C1)SCC(=CCOC1=CC=C(C=C1)C(C)=O)C | C20H22O2S
